data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_309508_1,[C@@:1]([C:4]([H:16])([H:17])[H:18])([N:5]([O:6][C:2]([H:10])([H:11])[H:12])[H:8])([O:7][C:3]([H:13])([H:14])[H:15])[H:9]>>[C@:1]([C:4]([H:16])([H:17])[H:18])([N:5]([O:7][C:3]([H:13])([H:14])[H:15])[H:8])([O:6][C:2]([H:10])([H:11])[H:12])[H:9],73.07488500002066
MR_288069_1,[C:1]([N:2]([C:3](=[C:5]([H:14])[H:15])[O:6][H:8])[N:7]=[C:4]([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:1](/[N:2]=[C:3](\[C:5]([N:7]=[C:4]([H:12])[H:13])([H:14])[H:15])[O:6][H:8])([H:9])([H:10])[H:11],61.687014999987184
MR_644369_1,[C:1]([C:4](=[C:3]([N:6]([H:10])[H:11])[N:7]([H:12])[H:13])/[N:9]=[C:5](\[C:2]([H:19])([H:20])[H:21])[N:8]([H:14])[H:15])([H:16])([H:17])[H:18]>>[C:1]([C:4]1=[N:9][C:5]([C:2]([H:19])([H:20])[H:21])([N:8]([H:14])[H:15])[C:3]1([N:6]([H:10])[H:11])[N:7]([H:12])[H:13])([H:16])([H:17])[H:18],39.55760000003622
MR_626496_1,[C:1]1([O:5][H:7])([H:9])[C:2]([O:6][H:8])([H:10])[N:4]1[C:3]([H:11])([H:12])[H:13]>>[C:1](=[C:2](/[O:6][H:8])[H:10])(\[N:4]([C:3]([H:11])([H:12])[H:13])[O:5][H:7])[H:9],54.95331250000959
MR_88988_0,[C:1](\[C:3](=[O:6])[H:10])(=[C:4](/[N:2]([H:8])[H:9])[H:11])[O:5][H:7]>>[C:1]1([O:5][H:7])=[C:3]([H:10])[O:6][C:4]1([N:2]([H:8])[H:9])[H:11],49.86303249998471
MR_120827_0,[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:4](=[C:3](/[N:7]=[C:5]([H:15])[H:16])[H:10])[H:11])([O:6][H:8])[H:9]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([H:9])[C:3]([N:7]=[C:5]([H:15])[H:16])([H:10])[C:4]1([O:6][H:8])[H:11],68.71187750005006
MR_87982_2,[C:1]([C:5]([C:6]([C:2]([H:16])([H:17])[H:18])(/[C:4](=[N:3]/[H:12])[O:7][H:10])[O:8][H:11])=[O:9])([H:13])([H:14])[H:15]>>[C:1]([C:5]([N:3](/[C:4](=[C:6](\[C:2]([H:16])([H:17])[H:18])[O:8][H:11])[O:7][H:10])[H:12])=[O:9])([H:13])([H:14])[H:15],53.81063500000536
MR_359253_0,[C:1](\[C:3]([H:14])([H:15])[H:16])(=[N:7]/[C:5]1([C:2]([H:11])([H:12])[H:13])/[C:4](=[N:8]/[H:10])[O:6]1)[H:9]>>[C:1]1([C:3]([H:14])([H:15])[H:16])([H:9])/[C:4](=[N:8]/[H:10])[O:6][C:5]([C:2]([H:11])([H:12])[H:13])=[N:7]1,53.88342499999993
MR_226947_0,[C:1]1([H:8])([H:9])[C:3]([H:13])([H:14])[C:4]1([O:5][C:2]([H:10])([H:11])[H:12])[N:6]([H:7])[H:15]>>[C:1]([C:3]([H:13])([H:14])[H:15])(/[C:4]([O:5][C:2]([H:10])([H:11])[H:12])=[N:6]/[H:7])([H:8])[H:9],52.785927499988645
MR_573281_1,[C@@:1]([N:4]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])(/[C:6](=[N:8]/[N:5]([H:11])[H:12])[H:13])([O:7][H:9])[H:10]>>[C:1](=[C:6](/[N:8]([N:4]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])[N:5]([H:11])[H:12])[H:13])(\[O:7][H:9])[H:10],72.00562499997375
MR_467457_1,[C:1]([c:5]1[c:7]([C:3]([H:18])([H:19])[H:20])[c:6]([C:2]([H:15])([H:16])[H:17])[c:4]([N:8]([H:10])[H:11])[o:9]1)([H:12])([H:13])[H:14]>>[C:1]([C@@:5]12[C@@:4]([N:8]([H:10])[H:11])([C:6]([C:2]([H:15])([H:16])[H:17])=[C:7]1[C:3]([H:18])([H:19])[H:20])[O:9]2)([H:12])([H:13])[H:14],69.62802750001984
MR_142542_2,[C:1]([C:2]1([H:10])[C:3]([C:6]([H:19])([H:20])[H:21])([H:11])[O:9]1)([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:7](=[C:8]([H:22])[H:23])[H:12]>>[C:1]([C@:2]1([H:10])[C@@:3]([C:6]([H:19])([H:20])[H:21])([H:11])[O:9]1)([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:7](=[C:8]([H:22])[H:23])[H:12],61.93927000002802
MR_198737_1,[C:1](/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:7]/[O:6][H:9])(/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:8]\[H:10])([H:11])[H:12]>>[C:1](=[C:4]([C:2]([H:13])([H:14])[H:15])[N:7](/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:8]\[H:10])[O:6][H:9])([H:11])[H:12],68.6114775000182
MR_357770_1,[C:1](\[C:2]([C:4](/[C:6](=[N:8]\[H:13])[H:16])([N:7]([H:11])[H:12])[H:9])([H:14])[H:15])([C:3]([H:17])([H:18])[H:19])=[N:5]/[H:10]>>[C:1]([C:2]([C:4](/[C:6](=[N:8]\[H:13])[H:16])=[N:7]/[H:12])([H:14])[H:15])([C:3]([H:17])([H:18])[H:19])([N:5]([H:10])[H:11])[H:9],59.71478250000857
MR_443105_0,[C:1](/[C:2]([N:4]([H:12])[H:13])=[C:5](/[O:6][N:3]([H:10])[H:11])[H:14])([O:7][H:9])=[O:8]>>[C:1](/[C:5](=[C:2](\[N:4]([H:12])[H:13])[O:6][N:3]([H:10])[H:11])[H:14])([O:7][H:9])=[O:8],56.51202250003351
MR_594112_1,[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:5](=[C:3](/[N:4]([H:11])[H:12])[N:8]=[C:6]([H:17])[H:18])[H:13])([O:7][H:9])[H:10]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:5]([C:3](\[N:4]([H:11])[H:12])=[N:8]/[C:6]([O:7][H:9])([H:17])[H:18])/[H:13])[H:10],35.765617500015026
MR_483359_1,[C:1](/[N:3]=[C:4](\[N:6]([H:9])[H:10])[N:8]([C:5]([C:2]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:3](/[C:4]([N:6]([H:9])[H:10])=[N:8]/[H:11])[C:5]([C:2]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])([H:12])([H:13])[H:14],58.30667249999678
MR_203883_1,[C@@:1]([C:2]([H:14])([H:15])[H:16])(/[C:4]([N:6]([H:12])[H:13])=[N:8]/[O:7][H:10])([C:5]([C:3]([H:17])([H:18])[H:19])=[O:9])[H:11]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:4](/[N:6]([H:12])[H:13])[N:8]([C:5]([C:3]([H:17])([H:18])[H:19])=[O:9])[O:7][H:10])[H:11],55.16227000001706
